US06015905
Sodium methoxide (0.725 g, 13 mmol) and methyl formate (0.8 ml, 13 mmol) were added portionwise to a stirred solution of methyl 2-(6-trifluoromethylpyrid-2-yloxymethyl)phenylacetate (2.0 g, 6.0 mmol) in dry toluene (15 ml) under a nitrogen atmosphere at room temperature. After 6 hours at room temperature, the mixture was poured into water and extracted with diethyl ether. The ether extracts were washed with water, dried and the ether removed to give (E)-methyl 2-[2-(6-trifluoromethylpyrid-2-yloxymethyl)phenyl]-3-hydroxyacrylate (2.01 g, 95%) as a yellow gum which was used in the next stage without further purification; 1H NMR (270 MHz)δ: 3.75(3H,s), 5.34(2H,s), 6.90(1H,d), 7.15-7.75(7H,m), 11.95(1H,d) ppm.

reactant | Sodium methoxide | 13 mmol, 0.725 g | C[O-].[Na+]
reactant | methyl formate | 13 mmol, 0.8 ml | C(=O)OC | C2H4O2
reactant | methyl 2-(6-trifluoromethylpyrid-2-yloxymethyl)phenylacetate | 6.0 mmol, 2.0 g | FC(C1=CC=CC(=N1)OCC1=C(C=CC=C1)CC(=O)OC)(F)F | C16H14F3NO3
reactant | water | O | H2O
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
product | (E)-methyl 2-[2-(6-trifluoromethylpyrid-2-yloxymethyl)phenyl]-3-hydroxyacrylate | 2.01 g, 95% | FC(C1=CC=CC(=N1)OCC1=C(C=CC=C1)/C(/C(=O)OC)=C\O)(F)F | C17H14F3NO4
